US05843949
1-[4-[4-[4-(6-Fluoro-1H-indazol-3-yl)-1-piperidinyl]butoxy]-3-methoxyphenyl]-ethanone
A stirred mixture of 6-fluoro-3-(4-piperidinyl)-1H- indazole (1.9 g, 8.6 mmol), 1-[4-(4-bromobutoxy)-3-methoxyphenyl]ethanone (2.6 g, 8.6 mmol), K2CO3 (1.2 g), and acetonitrile (75 ml) was refluxed for 6 hours. The reaction was poured into water and a white solid settled from solution. This was collected, dried and afforded 3.2 g of product. The product was recrystallized from ethanol to yield 2.7 g (71%) of 1-[4-[4-[4-(6-fluoro-1H-indazol-3-yl)-1-piperidinyl]butoxyl-3-methoxy-phenyl]ethanone as glistening white flakes, m.p.=158°-160° C.

reactant | 6-fluoro-3-(4-piperidinyl)-1H- indazole | 8.6 mmol, 1.9 g | FC1=CC=C2C(=NNC2=C1)C1CCNCC1 | C12H14FN3
reactant | 1-[4-(4-bromobutoxy)-3-methoxyphenyl]ethanone | 8.6 mmol, 2.6 g | BrCCCCOC1=C(C=C(C=C1)C(C)=O)OC | C13H17BrO3
reactant | K2CO3 | 1.2 g | C(=O)([O-])[O-].[K+].[K+]
reactant | acetonitrile | 75 ml | C(C)#N | C2H3N
solvent | water | O | H2O
product | 1-[4-[4-[4-(6-Fluoro-1H-indazol-3-yl)-1-piperidinyl]butoxy]-3-methoxyphenyl]-ethanone | 3.2 g | FC1=CC=C2C(=NNC2=C1)C1CCN(CC1)CCCCOC1=C(C=C(C=C1)C(C)=O)OC | C25H30FN3O3
